US06613786B2
2-Nitro-4-chloro-6-bromoanisole was prepared by the same procedure as described for Step 2 of Preparation 2a using 2-nitro-4-chloro-6-bromophenol (16 g), methyl iodide (10.8 g), and potassium carbonate (26.3 g). Workup gave crude 2-nitro-4-chloro-6-bromoanisole (16.3 g, 96%) which was used in the next step without purification. 1H NMR (300 MHz, CDCl3) δ7.80 (d, J=2.5 Hz, 1 H), 7.77 (d, J=2.5 Hz, 1H), 4.01 (s, 3H). 13C NMR (75 MHz, CDCl3) δ149.7, 137.2 (2C), 130.0, 124.4, 120.5, 62.8.

reactant | 2-nitro-4-chloro-6-bromophenol | 16 g | [N+](=O)([O-])C1=C(C(=CC(=C1)Cl)Br)O | C6H3BrClNO3
reactant | methyl iodide | 10.8 g | CI | CH3I
reactant | potassium carbonate | 26.3 g | C([O-])([O-])=O.[K+].[K+]
product | 2-nitro-4-chloro-6-bromoanisole | 16.3 g, 96% | [N+](=O)([O-])C1=C(C(=CC(=C1)Cl)Br)OC | C7H5BrClNO3
